US04831151
0.61 g (4 mmol) of p-nitrobenzaldehyde is added to a solution of 1.19 g (4 mmol) of 3-amino-1-[[p-(dimethylamino)benzylidene]amino]-2-ethylimidazolium chloride in 10 ml of glacial acetic acid, the mixture is stirred at room temperature for 16 hours and the product is precipitated by the addition of ether. The product is then filtered off and recrystallized from ethanol. There is obtained 1-[[p-(dimethylamino)benzylidene]amino]-2-ethyl-3-[(p-nitrobenzylidene)amino]imidazolium chloride of melting point 250°.

reactant | p-nitrobenzaldehyde | 4 mmol, 0.61 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | 3-amino-1-[[p-(dimethylamino)benzylidene]amino]-2-ethylimidazolium chloride | 4 mmol, 1.19 g | [Cl-].NN1C(=[N+](C=C1)N=CC1=CC=C(C=C1)N(C)C)CC
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 1-[[p-(dimethylamino)benzylidene]amino]-2-ethyl-3-[(p-nitrobenzylidene)amino]imidazolium chloride | [Cl-].CN(C1=CC=C(C=N[N+]2=C(N(C=C2)N=CC2=CC=C(C=C2)[N+](=O)[O-])CC)C=C1)C | InChI=1S/C21H23N6O2.ClH/c1-4-21-25(22-15-17-5-9-19(10-6-17)24(2)3)13-14-26(21)23-16-18-7-11-20(12-8-18)27(28)29;/h5-16H,4H2,1-3H3;1H/q+1;/p-1
